US03956297
In the manner given in Example 5, 8-trifluoromethyl-[(5H-dibenzo[b,e][1,4]diazepin-11-yl)amino]acetaldehyde dimethyl acetal is treated with concentrated sulfuric acid to give 6-trifluoromethyl-9H-dibenzo[b,f]imidazo-[1,2-d][1,4]diazepine.

reactant | 8-trifluoromethyl-[(5H-dibenzo[b,e][1,4]diazepin-11-yl)amino]acetaldehyde dimethyl acetal | COC(CNC=1C2=C(NC3=C(N1)C=C(C=C3)C(F)(F)F)C=CC=C2)OC | C18H18F3N3O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 6-trifluoromethyl-9H-dibenzo[b,f]imidazo-[1,2-d][1,4]diazepine | FC(C1=CC2=C(NC3=C(C=4N2C=CN4)C=CC=C3)C=C1)(F)F | C16H10F3N3
